US07125881B2
(i) N-(4-Chlorophenyl)-2,6-difluoropyrimidin-4-amine
4-Chloroaniline was added to a stirred solution of 2,4,6-trifluoropyrimidine (7.7 g), potassium carbonate (7.86 g) in ethanol (80 ml). The mixture was stirred at room temperature for 16 h, diluted with water, extracted with ethyl acetate, dried (MgSO4) and evaporated under reduced pressure. The residue was purified by chromatography on silica eluting with isohexane/ethyl acetate (4:1). Yield 8.3 g cream solid

reactant | 4-Chloroaniline | ClC1=CC=C(N)C=C1 | C6H6ClN
reactant | 2,4,6-trifluoropyrimidine | 7.7 g | FC1=NC(=CC(=N1)F)F | C4HF3N2
reactant | potassium carbonate | 7.86 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 80 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | N-(4-Chlorophenyl)-2,6-difluoropyrimidin-4-amine | ClC1=CC=C(C=C1)NC1=NC(=NC(=C1)F)F | C10H6ClF2N3
